US06492416B1
To a stirred solution of 1.5 ml 2-fluorothioanisole in 50 ml dichloromethane, were added at 0° C. 1.2 g of aluminum chloride and 1 ml of phenylacetyl chloride. The reaction mixture was stirred for 12 hours at the room temperature. Then the reaction was quenched by adding appropriate amount of ice and aqueous HCl in one portion. The quenched mixture was extracted with dichloromethane (50 ml×3) and the organic layer was washed with brine. The organic layer was dried over anhydrous magnesium sulfate, which was followed by removal of the magnesium sulfate by filtration. Then the filtrate was concentrated in vacuo and was purified by recrystallization from methanol to yield 1.8 g of 1-{3-fluoro-4-(methylthio)phenyl}-2-phenyl-ethan-1-one. mp: 71-72° C. NMR: δ2.50 (s, 3H), 4.22 (s, 2H), 7.20-7.33 (m, 6H), 7.64 (m, 1H), 7.77 (m, 1H). Step 2: Preparation of 2,2-dimethyl-5-{3-fluoro-4-(methylthio)phenyl}-4-phenyl-3(2H)-furanone

reactant | 2-fluorothioanisole | 1.5 ml | FC1=C(C=CC=C1)SC | C7H7FS
reactant | aluminum chloride | 1.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | phenylacetyl chloride | 1 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-{3-fluoro-4-(methylthio)phenyl}-2-phenyl-ethan-1-one | 1.8 g | FC=1C=C(C=CC1SC)C(CC1=CC=CC=C1)=O | C15H13FOS
